US05128340
A solution of thioacetamide (5 g) in methanol (25 ml) was added dropwise to a stirred suspension of 3-bromoacetylpyridine hydrobromide (17,75 g) in methanol (89 ml) at room temperature over ten minutes. After about one hour, the hydrobromide of the product crystallized out. The mixture was diluted with ether (100 ml) and the product was isolated by filtration. The solid was dissolved in water and the solution was basified with ammonium hydroxide. The product was extracted into ether and the extract was washed with saturated salt solution, then evaporated to give 2-methyl-4-(pyridin-3-yl)-thiazole as a crystalline solid (8,6 g) Mp 81° C.

reactant | thioacetamide | 5 g | C(C)(=S)N | C2H5NS
reactant | 3-bromoacetylpyridine hydrobromide | 17,75 g | Br.BrCC(=O)C=1C=NC=CC1
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 89 ml | CO | CH4O
solvent | water | O | H2O
product | 2-methyl-4-(pyridin-3-yl)-thiazole | 8,6 g | CC=1SC=C(N1)C=1C=NC=CC1 | C9H8N2S
